US04521413
To a suspension of diphenylmethyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride (27 g) in methylene chloride (300 ml) was added N,N-dimethylaniline (36.2 g) under cooling in an ice bath at 5° C. To the solution was added portionwise 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride (syn isomer) (16.2 g) below 11° C. and the mixture was stirred for 45 minutes at 5° C. The reaction mixture was diluted with a mixed solvent of methylene chloride (100 ml) and water (200 ml) and adjusted to pH 2 with 1N hydrochloric acid. The organic layer was separated out, washed with water, dried over magnesium sulfate and evaporated to dryness. The residue was triturated in diethyl ether to give diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (32.4 g), mp 120° to 125° C. (dec.).

reactant | diphenylmethyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 27 g | Cl.NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | N,N-dimethylaniline | 36.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride | 16.2 g | Cl.C(C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | diphenylmethyl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 32.4 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C27H25ClN6O5S2
